US03987040
A mixture of the benzhydryl ester of 3-carbamoyloxymethyl-7-methoxy-7-(2-thienylacetamido)-2-cephem-4-carboxylic acid (0.212 g.), perchloric acid (0.36 g.) in tetrahydrofuran (6.0 ml.) and hydrazoic acid (28.0 ml., 0.18 N) in methylene chloride is stirred under a nitrogen atmosphere for nine hours. The reaction mixture is washed with a 5% aqueous sodium bicarbonate solution and then with a saturated sodium chloride solution. The methylene chloride solution is dried over anhydrous sodium sulfate, filtered and the solvent removed by evaporation. The crude product is purified by chromatographing through a column of silica gel G to yield the substantially pure benzhydryl ester of 3-azidomethyl-7-methoxy-7-(2-thienylacetamido)-2-cephem-4-carboxylic acid.

reactant | 3-carbamoyloxymethyl-7-methoxy-7-(2-thienylacetamido)-2-cephem-4-carboxylic acid | 0.212 g | C(N)(=O)OCC1=CS[C@H]2N(C1C(=O)O)C(C2(NC(CC=2SC=CC2)=O)OC)=O | C16H17N3O7S2
reactant | perchloric acid | 0.36 g | Cl(=O)(=O)(=O)O | ClHO4
reactant | hydrazoic acid | 0.18 N, 28.0 ml | N=[N+]=[N-] | HN3
solvent | tetrahydrofuran | 6.0 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-azidomethyl-7-methoxy-7-(2-thienylacetamido)-2-cephem-4-carboxylic acid | N(=[N+]=[N-])CC1=CS[C@H]2N(C1C(=O)O)C(C2(NC(CC=2SC=CC2)=O)OC)=O | C15H15N5O5S2
